US04734430
Hydrazine (0.07 ml) was added dropwise to an ice-cold solution of 0.5 g of 1-benzyl-5,6-dihydro-5-hydroxymethylene-4(1H) cyclopentapyrazolone in 25 ml of methanol. The solution was heated at reflux for 2 hours and then cooled to room temperature and stirred for 16 hours. An additional 0.07 ml of hydrazine was added and the solution was heated at reflux for 8 hours. Removal of the solvent under reduced pressure gave 1-benzyl-4,7-dihydro-1H-cyclopenta-[1,2-c:3,4-c']dipyrazole as an orange-red solid (86% yield) melting at about 61°-72° C.

reactant | Hydrazine | 0.07 ml | NN | H4N2
reactant | 1-benzyl-5,6-dihydro-5-hydroxymethylene-4(1H) cyclopentapyrazolone | 0.5 g | C(C1=CC=CC=C1)N1N=CC2=C1CC(C2=O)=CO | C14H12N2O2
reactant | hydrazine | 0.07 ml | NN | H4N2
solvent | methanol | 25 ml | CO | CH4O
product | 1-benzyl-4,7-dihydro-1H-cyclopenta-[1,2-c:3,4-c']dipyrazole | 86% yield | C(C1=CC=CC=C1)N1N=CC2=C1CC1=C2NN=C1 | C14H12N4
